.include osu018p.lib
.include osu018n.lib
m3 vdd q qbar vdd pfet W=0.15u L=0.18u M=1
m6 q qbar vdd vdd pfet W=0.15u L=0.18u M=1
m2 qbar q gnd gnd nfet W=0.72u L=0.18u M=1
m7 gnd qbar q gnd nfet W=0.72u L=0.18u M=1
m8 blbar wl qbar gnd nfet W=0.36u L=0.18u M=1
m1 q wl bl gnd nfet W=0.36u L=0.18u M=1
*m5 vdd bl blbar vdd pfet W=0.9u L=0.18u M=1
*m4 blbar bl gnd gnd nfet W=0.36u L=0.18u M=1 
m11 bl pclk net-_m1-pad3_ net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
m13  net-_m1-pad3_ pclk blbar net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
m12  blbar pclk bl net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
m23 net-_m3-pad1_ data databar net-_m3-pad1_ pfet W=0.9u L=0.18u M=1
m21 databar data gnd gnd nfet W=0.36u L=0.18u M=1 
m24  net-_m4-pad1_ en enbar net-_m4-pad1_ pfet W=0.9u L=0.18u M=1
m22  enbar en gnd gnd nfet W=0.36u L=0.18u M=1 
m27  net-_m7-pad1_ enbar net-_m7-pad3_ net-_m7-pad1_ pfet W=0.9u L=0.18u M=1
m28  net-_m7-pad3_ databar bl net-_m7-pad1_ pfet W=0.9u L=0.18u M=1
m211  net-_m11-pad1_ enbar net-_m11-pad3_ net-_m11-pad1_ pfet W=0.9u L=0.18u M=1
m212  net-_m11-pad3_ data blbar net-_m11-pad1_ pfet W=0.9u L=0.18u M=1
m25  bl databar net-_m5-pad3_ gnd nfet W=0.36u L=0.18u M=1 
m29  blbar data net-_m10-pad1_ gnd nfet W=0.36u L=0.18u M=1 
m26  net-_m5-pad3_ en gnd gnd nfet W=0.36u L=0.18u M=1 
m210  net-_m10-pad1_ en gnd gnd nfet W=0.36u L=0.18u M=1 
m31 net-_m1-pad1_ se bl vdd1 pfet W=0.9u L=0.18u M=1
m37 blbar se d vdd1 pfet W=0.9u L=0.18u M=1
m33 vdd1 net-_m1-pad1_ d vdd1 pfet W=0.7u L=0.18u M=1
m35 net-_m1-pad1_ d vdd1 vdd1 pfet W=0.7u L=0.18u M=1
m32 d net-_m1-pad1_ net-_m2-pad3_ gnd nfet W=0.9u L=0.18u M=1
m36 net-_m2-pad3_ d net-_m1-pad1_ gnd nfet W=0.9u L=0.18u M=1
m34 net-_m2-pad3_ se gnd gnd nfet W=0.9u L=0.18u M=1
v3 vdd gnd  dc 1.8V
v2 wl gnd pulse(0V 1.8V 0ns 1ns 1ns 50ns 100ns)
v11 net-_m1-pad3_ gnd  dc 1.8V
v12  pclk gnd pulse(0V 1.8V 0ns 1ns 1ns 50ns 100ns)
v24 net-_m4-pad1_ gnd  dc 1.8V
v23 net-_m3-pad1_ gnd  dc 1.8V
v21  data gnd pulse(1.8V 1.8V 0ns 1ns 1ns 50ns 500ns)
v22  en gnd pulse(0V 1.8V 0ns 1ns 1ns 50ns 500ns)
v25 net-_m7-pad1_ gnd  dc 1.8V
v33 vdd1 gnd  dc 1.8V
v31 se gnd pulse(0V 1.8V 50ns 1ns 1ns 50ns 100ns)
.tran 10e-12 500e-09 1e-09



.control
run
plot wl
plot pclk
plot data
plot en
plot se
plot bl
plot blbar
plot q
plot qbar
plot d
.endc
.end
